US07265144B2
To a solution of 4-bromo-3-(4-fluorophenyl)-1-(2-methylphenyl)-1H-pyrazol-5-amine (200 mg, 0.58 mmol) in toluene (10 mL) was added tributylvinyl tin (0.33 mL, 366 mg, 1.16 mmol) and tetrakis(triphenylphosphine)palladium(0) (66 mg, 0.06 mmol). The reaction mixture was heated to reflux and stirred for 16 h. After cooling to rt, the mixture was concentrated under reduced pressure. The residue was dissolved in EtOAc (100 mL), washed with brine (50 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. Silica gel flash chromatography of the residue using 10% EtOAc/Hex afforded 3-(4-fluorophenyl)-1-(2-methylphenyl)-4-vinyl-1H-pyrazol-5-amine (87 mg, 51%):

reactant | 4-bromo-3-(4-fluorophenyl)-1-(2-methylphenyl)-1H-pyrazol-5-amine | 0.58 mmol, 200 mg | BrC=1C(=NN(C1N)C1=C(C=CC=C1)C)C1=CC=C(C=C1)F | C16H13BrFN3
reactant | tributylvinyl tin | 1.16 mmol, 0.33 mL, 366 mg | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.06 mmol, 66 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-fluorophenyl)-1-(2-methylphenyl)-4-vinyl-1H-pyrazol-5-amine | 87 mg, 51% | FC1=CC=C(C=C1)C1=NN(C(=C1C=C)N)C1=C(C=CC=C1)C | C18H16FN3
